US07163958B2
13a. 3-Hydroxy-2-(hydroxymethyl)-2-nitropropyl(2S)-2-(6-methoxy(2-naphthyl))propanoate
A solution of (2S)-2-(6-methoxy(2-naphthyl))propanoic acid (naproxen, 4.27 g, 18.5 mmol), 2-hydroxymethyl-2-nitro-1,3-propanediol (2.89 g, 19.1 mmol), N,N-dimethylaminopyridine (DMAP, 0.88 g, 7.2 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (4.86 g, 25.4 mmol) and NEt(i-Pr)2 (11 mL, 63.2 mmol) in acetone (100 mL) was stirred at ambient temperature overnight. The reaction mixture was evaporated to dryness and the residue was partitioned between 3N HCl (100 mL) and CH2Cl2 (200 mL×2). The combined organic layer was back washed with water and brine, dried over Na2SO4, filtered, concentrated and dried under vacuum. The product was separated by silica gel column chromatography eluting with ethyl acetate/hexane (gradient from 1:2 to 1:1, Rf=0.1 in 1:2) to give the title compound as a white solid (2.48 g, 39% yield). Mp 124–126° C. 1H NMR (300 MHz, 10% CD3OD/CDCl3) δ 7.73–7.64 (m, 3H), 7.37–7.33 (m, 1H), 7.17–7.12 (m, 2H), 4.44 (d, J=2.6 Hz, 2H), 3.92 (s, 3H), 3.9–3.7 (m, 5H), 3.4 (br, 2H), 1.58 (d, J=7.2 Hz, 3H). 13C NMR (75 MHz, 10% CD3OD/CDCl3) δ 174.1, 157.4, 134.5, 133.5, 129.0, 128.6, 127.0, 125.7, 118.8, 105.4, 92.4, 61.2, 60.1, 55.0, 45.0, 17.7.

reactant | (2S)-2-(6-methoxy(2-naphthyl))propanoic acid | 18.5 mmol, 4.27 g | COC=1C=C2C=CC(=CC2=CC1)[C@@H](C(=O)O)C | C14H14O3
reactant | 2-hydroxymethyl-2-nitro-1,3-propanediol | 19.1 mmol, 2.89 g | OCC(CO)(CO)[N+](=O)[O-] | C4H9NO5
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 25.4 mmol, 4.86 g | Cl.CN(CCCN=C=NCC)C
reactant | NEt(i-Pr)2 | 63.2 mmol, 11 mL | N(CC)(C(C)C)C(C)C | C8H19N
solvent | acetone | 100 mL | CC(=O)C | C3H6O
product | 3-Hydroxy-2-(hydroxymethyl)-2-nitropropyl(2S)-2-(6-methoxy(2-naphthyl))propanoate | 2.48 g, 39% yield | COC=1C=C2C=CC(=CC2=CC1)[C@@H](C(=O)OCC(CO)([N+](=O)[O-])CO)C | C18H21NO7
